US05401743
2-Amino-5-[2-(2-phenylethyl-n-propylamino)ethylthio]-1,3,4-thiadiazole dihydrochloride
4 g of 2-amino-5-mercapto-1,3,4-thiadiazole, 2.5 g of potassium carbonate and 7.0 g of 2-chloroethyl-(n-propyl)phenethylamine in 10 ml of dimethylformamide were stirred at 100° C. for 30 min. The mixture was then cooled and poured into ice-water, and the precipitated brown solid was filtered off with suction and partitioned in methyl t-butyl ether/water. The organic phase was separated off, washed with water and concentrated. The residue was taken up in 2N HCl and extracted with methylene chloride. The aqueous phase was adjusted to pH 7 with 2N NaOH, the precipitated white solid was filtered off with suction and suspended in i-propanol, and ethereal HCl was added. The white solid which was precipated by addition of methyl t-butyl ether was filtered off with suction and dried under reduced pressure.

reactant | 2-amino-5-mercapto-1,3,4-thiadiazole | 4 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethyl-(n-propyl)phenethylamine | 7.0 g | ClCCN(CCC1=CC=CC=C1)CCC | C13H20ClN
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-Amino-5-[2-(2-phenylethyl-n-propylamino)ethylthio]-1,3,4-thiadiazole dihydrochloride | Cl.Cl.NC=1SC(=NN1)SCCN(CCC)CCC1=CC=CC=C1 | InChI=1S/C15H22N4S2.2ClH/c1-2-9-19(10-8-13-6-4-3-5-7-13)11-12-20-15-18-17-14(16)21-15;;/h3-7H,2,8-12H2,1H3,(H2,16,17);2*1H
